US06297283B1
Preparation of N,N′-bis[5-amino-2-(3,4,5-trimethoxyphenyl)benzoyl]ethylenediamine:
To a solution of 20 mg (0.028 mmol) of N,N′-bis[5-nitro-2-(3,4,5-trimethoxy-phenyl)benzoyl]ethylenediamine synthesized by the process of Example 52 in acetic acid-ethyl acetate (1:3, 2 ml) was added 20 mg of 10% palladium on carbon, and the mixture was stirred for 3 hours at room temperature under hydrogen. The catalyst was removed from the reaction mixture by suction filtration through Celite, and the filtrate was concentrated under reduced pressure. A solution of the resultant residue in chloroform was washed with a saturated solution of a sodium hydrogencarbonate and a saturated saline solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, thereby obtaining 17 mg (quantitative) of crude crystals of the title compound. The crude crystals were recrystallized from methylene chloride-diethyl ether, thereby obtaining a pale yellow crystalline powder.

reactant | N,N′-bis[5-nitro-2-(3,4,5-trimethoxy-phenyl)benzoyl]ethylenediamine | 0.028 mmol, 20 mg | [N+](=O)([O-])C=1C=CC(=C(C(=O)NCCNC(C2=C(C=CC(=C2)[N+](=O)[O-])C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)C1=CC(=C(C(=C1)OC)OC)OC | C34H34N4O12
solvent | acetic acid ethyl acetate | 2 ml | C(C)(=O)O.C(C)(=O)OCC
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | N,N′-bis[5-amino-2-(3,4,5-trimethoxyphenyl)benzoyl]ethylenediamine | NC=1C=CC(=C(C(=O)NCCNC(C2=C(C=CC(=C2)N)C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)C1=CC(=C(C(=C1)OC)OC)OC | C34H38N4O8
